US07396958B2
N2-[2-(2-chlorobenzyl)-4-methylphenyl]-N2-[(3,4-dimethoxyphenyl)sulfonyl]glycinamide
To 0.47 g of N-{4-methyl-2-[(2-chlorophenyl)(hydroxy)methyl]phenyl}-3,4-dimethoxybenzenesulfonamide dissolved in 5.7 ml of DMF is added, at 0° C., 0.048 g of sodium hydride. After 1 hour at this temperature, 0.166 g of 2-bromoacetamide is introduced and the mixture is left for 18 hours at room temperature. The medium is poured into water and then extracted with ethyl acetate. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with a 90/10 (v/v) cyclohexane/ethyl acetate mixture to give 0.4 g of the expected product.

reactant | N-{4-methyl-2-[(2-chlorophenyl)(hydroxy)methyl]phenyl}-3,4-dimethoxybenzenesulfonamide | 0.47 g | CC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC)C(O)C1=C(C=CC=C1)Cl | C22H22ClNO5S
reactant | sodium hydride | 0.048 g | [H-].[Na+]
reactant | 2-bromoacetamide | 0.166 g | BrCC(=O)N | C2H4BrNO
reactant | water | O | H2O
solvent | DMF | 5.7 ml | CN(C)C=O | C3H7NO
product | N2-[2-(2-chlorobenzyl)-4-methylphenyl]-N2-[(3,4-dimethoxyphenyl)sulfonyl]glycinamide | 0.4 g | ClC1=C(CC2=C(C=CC(=C2)C)N(CC(=O)N)S(=O)(=O)C2=CC(=C(C=C2)OC)OC)C=CC=C1 | C24H25ClN2O5S
